US07371779B2
To a solution of the decandioic acid mono methyl ester (2 mmol) in dry tetrahydrofuran (20 ml) was added 1-hydroxybenzotriazole (1 mmol), N,N′-dicyclohexylcarbodiimide (1.1 mmol) and N,N-dimethylamine (2M solution in tetrahydrofuran, 2 ml). The mixture was stirred overnight and then filtered. The solvent was removed in vacuo and the residue redissolved in ethyl acetate. The ethyl acetate solution was washed sequentially with saturated sodium hydrogen carbonate solution, 1M potassium hydrogen sulphate solution and saturated sodium chloride solution. After drying over anhydrous magnesium sulphate and removal of the solvent, the product was purified by preparative layer chromatography on silica plates in ethyl acetate to afford methyl 9-(N,N-dimethylcarbamoyl)nonanoate.

reactant | decandioic acid mono methyl ester | 2 mmol | COC(CCCCCCCCC(=O)O)=O | C11H20O4
reactant | 1-hydroxybenzotriazole | 1 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N′-dicyclohexylcarbodiimide | 1.1 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N-dimethylamine | 2M, 2 ml | CNC | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 9-(N,N-dimethylcarbamoyl)nonanoate | CN(C(=O)CCCCCCCCC(=O)OC)C | C13H25NO3
